US04946855
A mixture, obtained by adding ice-cooled dry DMF(0.53 ml, 6.48 mmol) and then thionyl chloride (0.499 ml, 6.84 mmol) to dry benzene (1.5 ml,, was allowed to warm up to room temperature and to react for 10 minutes upon which the mixture separated into two layers. The lower layer was added dropwise to dipotassium salt of 1H-tetrazole-5-carboxylic acid (867 mg, 4.56 mmol) suspended in dry acetonitrile (15 ml) under ice-cooling. The mixture was allowed to react for 15 minutes. After adding dropwise a mixed solution of 2-(4-methylphenyl)-4-thiazolamine (928 mg, 4.88 mmol) in dry acetonitrile (15 ml) and dry pyridine (4 ml) under the same conditions, the mixture was allowed to warm up to room temperature and to react for 1 hour. After dissolution was effected with addition of water, the reaction mixture was acidified under ice-cooling with 2N-HCl to pH 2. The deposited solids were filtered with suction, washed with water and recrystallized from methanol-water to give yellowish crystals (677 mg. yield 52%) of N-(2-(4-methylphenyl)-4-thiazolyl)-1H-tetrazole-5-carboxamide (Ia-5), m.p.228°-230° C.

reactant | DMF | 6.48 mmol, 0.53 ml | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 6.84 mmol, 0.499 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1H-tetrazole-5-carboxylic acid | 4.56 mmol, 867 mg | N1N=NN=C1C(=O)O | C2H2N4O2
reactant | 2-(4-methylphenyl)-4-thiazolamine | 4.88 mmol, 928 mg | CC1=CC=C(C=C1)C=1SC=C(N1)N | C10H10N2S
reactant | HCl | Cl | ClH
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(2-(4-methylphenyl)-4-thiazolyl)-1H-tetrazole-5-carboxamide | 677 mg, yield 52% | CC1=CC=C(C=C1)C=1SC=C(N1)NC(=O)C1=NN=NN1 | C12H10N6OS
